US07074819B2
Step 3) Synthesis of 9-(t-butyldimethylsilyloxy)-5-oxa-1-nonyne
To a solution of 4-butyn-1-ol (587 mg, 8.38 mmol) in N,N-dimethylformamide (20 ml) were added sodium hydride (335 mg, 60% in oil, 8.38 mmol) and 15-crown-5 (369 mg, 1.12 mmol) at 0° C., which was then stirred at the same temperature for 1 hour. Then, to the reaction mixture was added 4-(t-butyldimethylsilyloxy)butyl p-toluenesulfonate (2.0 g, 5.58 mmol) in N,N-dimethylformamide (5 ml) at 0° C. which was then stiffed at the same temperature for 1 hour. After the reaction was completed, water was added to the reaction mixture. The resulting mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=5:1) to give the title compound (1.36 g, yield: 96%).

reactant | sodium hydride | 8.38 mmol, 335 mg | [H-].[Na+]
reactant | 15-crown-5 | 1.12 mmol, 369 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 4-(t-butyldimethylsilyloxy)butyl p-toluenesulfonate | 5.58 mmol, 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCO[Si](C)(C)C(C)(C)C)C | C17H30O4SSi
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | n-hexane | CCCCCC | C6H14
product | 9-(t-butyldimethylsilyloxy)-5-oxa-1-nonyne | 1.36 g, yield: 96% | [Si](C)(C)(C(C)(C)C)OCCCCOCCC#C | C14H28O2Si
